US07365085B2
c) (3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenylamino)-acetic acid Hydrochloride
To a stirring solution of (3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenylamino)-acetic acid methyl ester in THF (6 ml) and water (2 ml) was added lithium hydroxide monohydrate (20 mg, 0.47 mmol) and the mixture was stirred at room temperature for 6 hours. The reaction mixture was acidified with 1 M aqueous HCl (0.5 mL). The aqueous mixture was concentrated in vacuo and the crude material was dissolved in EtOAc. The ethyl acetate solution was washed with brine (1×), dried over sodium sulfate, and filtered. The organic layer was concentrated, and the crude amine was treated with 1 M HCl (Et2O). The resulting precipitate was dried under vacuum to afford the title compound as a solid. MS(ES) m/e 597.4 (M+).

reactant | (3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenylamino)-acetic acid methyl ester | COC(CNC1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C34H34ClF3N2O3
reactant | lithium hydroxide monohydrate | 0.47 mmol, 20 mg | O.[OH-].[Li+]
reactant | HCl | 1 M, 0.5 mL | Cl | ClH
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | (3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenylamino)-acetic acid Hydrochloride | Cl.ClC1=C(CN(CCCOC=2C=C(C=CC2)NCC(=O)O)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C33H32ClF3N2O3.ClH/c34-32-26(14-7-17-30(32)33(35,36)37)22-39(18-9-19-42-28-16-8-15-27(20-28)38-21-31(40)41)23-29(24-10-3-1-4-11-24)25-12-5-2-6-13-25;/h1-8,10-17,20,29,38H,9,18-19,21-23H2,(H,40,41);1H
